US04783453
A mixture of p-nitrobenzyl 2-azido-carbapen-2-em-3-carboxylate (11.3 mg, 34 micromol), vinyl acetate (0.1 ml), and solid sodium bicarbonate in dry dichloromethane was kept 2 days at ambient temperature, filtered through florisil, and evaporated under vacuum. The residue was chromatographed on one 15 cm×20 cm 250 micron silica gel preparative thin layer chromatography plate developed with 5:1 (v/v) diethyl ether-ethyl acetate. The band centered at Rf 0.20 was eluted with ethyl acetate and the eluate was evaporated under vacuum to provide 5.5 mg (41%) p-nitrobenzyl 2-(2-acetoxyaziridin-1-yl)-carbapen-2-em-3-carboxylate; IR (CH2Cl2): 1770, 1735 cm-1 ; NMR (CDCl3): δ 1.90 dd (J1 =6 Hz, J2 =7 Hz, 1H), 2.10 t (J=7 Hz, 1H), 2.13 s (3H), 2.76 bd (J=5 Hz, 2H), 2.85 dd (J 1 =2.5 Hz, J2 =15 Hz, 1H), 3.25 dd (J1 =5 Hz, J2 =15 Hz, 1H), 4.12 m (1H), 4.87 dd (J1 =6 Hz, J2 =7 Hz, 1H), 5.27 s (2H), 7.49 d (J=9 Hz, 2H), 8.25 d (J=9 Hz, 2H).

reactant | p-nitrobenzyl 2-azido-carbapen-2-em-3-carboxylate | 34 micromol, 11.3 mg | N(=[N+]=[N-])C=1C[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C2)=O | C14H11N5O5
reactant | vinyl acetate | 0.1 ml | C(C)(=O)OC=C | C4H6O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | p-nitrobenzyl 2-(2-acetoxyaziridin-1-yl)-carbapen-2-em-3-carboxylate | 5.5 mg, 41% | C(C)(=O)OC1N(C1)C=1C[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C2)=O | C18H17N3O7
